### PR TITLE
[Merged by Bors] - feat: Count the number of pairs of `Nat`s whose `lcm` is `n`

### PR DESCRIPTION
**Pull request by amellendijk**
This result is central to controlling the error term in my formalisation of the Selberg sieve. Specifically to count the number of terms in a sum.

---

- [x] depends on: #10668

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 1]
```diff
@@ -0,0 +1,319 @@
...
+(`card_pair_lcm_eq`)
+-/
+
+open Finset
+open scoped BigOperators ArithmeticFunction
+namespace PNat
+
+/-- The set of divisors of a positive natural number.
+This is `Nat.divisorsAntidiagonal` without a special case for `n = 0`. -/
+def divisorsAntidiagonal (n : ℕ+) : Finset (ℕ+ × ℕ+) :=
```
Comment (vihdzp) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:29]: Why not redefine `Nat.divisorsAntidiagonal` as a `Finset (ℕ+ × ℕ+)`? All of its entries should be positive, even in the case of `0`.

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 2]
```diff
@@ -0,0 +1,319 @@
...
+    ↑(∏ i in s, f i) = (∏ i in s, f i : ℕ) :=
+  map_prod coeMonoidHom _ _
+
+end PNat
+
+namespace Nat
+
+/--
+  The `Finset` of all `d`-tuples of natural numbers whose product is `n`. Defined to be `∅` when
+  `n=0`. -/
```
Comment (vihdzp) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:63]:
```suggestion
  `n = 0`. -/
```

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean (hunk 1 above)
Comment (tb65536) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:29]: What's the motivation for using this instead of `Nat.divisorsAntidiagonal`? Typically `ℕ+` tends to be slightly more annoying than it's worth.

Comment (FLDutchmann) [reply Mathlib/Data/Nat/FinMulAntidiagonal.lean]: Apologies, this was a change in the dependency. This was resolved by inlining the definition. We need PNat here to reuse the `HasAntidiagonal` code which doesn't play nice with 0.

**Review by Ruben-VandeVelde — APPROVED** [review]
This seems alright.

maintainer merge

File: Mathlib/Algebra/Order/Antidiag/Nat.lean [hunk 3]
```diff
@@ -239,4 +241,69 @@ theorem card_finMulAntidiag_of_squarefree {d n : ℕ} (hn : Squarefree n) :
     ArithmeticFunction.cardDistinctFactors_apply, ← List.card_toFinset, toFinset_factors,
     Finset.card_fin]
 
+@[reducible]
+private def f {n : ℕ} : ∀ a ∈ finMulAntidiag 3 n, ℕ × ℕ := fun a _ => (a 0 * a 1, a 0 * a 2)
+
+private theorem finMulAntidiag_three {n : ℕ} :
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/Antidiag/Nat.lean:247]: I think this one doesn't need to be private. It could also be moved above the `def f`.

File: Mathlib/Algebra/Order/Antidiag/Nat.lean [hunk 4]
```diff
@@ -239,4 +241,69 @@ theorem card_finMulAntidiag_of_squarefree {d n : ℕ} (hn : Squarefree n) :
...
+      Matrix.cons_val_two, Matrix.tail_cons]
+      rw [Nat.mul_div_cancel_left' (Nat.gcd_dvd_left _ _), ← hb.2, lcm,
+        Nat.mul_div_assoc b.fst (Nat.gcd_dvd_right b.fst b.snd)]
+  use a; use ha
+  apply Prod.ext <;> simp only [Matrix.cons_val_zero, Matrix.cons_val_one, Matrix.head_cons]
+    <;> apply Nat.mul_div_cancel'
+  · apply Nat.gcd_dvd_left
+  · apply Nat.gcd_dvd_right
+
+theorem card_pair_lcm_eq {n : ℕ} (hn : Squarefree n) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/Antidiag/Nat.lean:304]: I'm inclined to suggest that you wrap the private decls above in a namespace `card_pair_lcm_eq`. This isn't really for technical reasons, but just for psychological benefits. And to clearly indicate that those decls are mathematical unit meant for proving `card_pair_lcm_eq`. You could even announce that in a module docstring at the start of the namespace.
```suggestion
open card_pair_lcm_eq in
theorem card_pair_lcm_eq {n : ℕ} (hn : Squarefree n) :
```

File: Mathlib/Algebra/Order/Antidiag/Nat.lean [hunk 5]
```diff
@@ -239,4 +241,69 @@ theorem card_finMulAntidiag_of_squarefree {d n : ℕ} (hn : Squarefree n) :
     ArithmeticFunction.cardDistinctFactors_apply, ← List.card_toFinset, toFinset_factors,
     Finset.card_fin]
 
+@[reducible]
+private def f {n : ℕ} : ∀ a ∈ finMulAntidiag 3 n, ℕ × ℕ := fun a _ => (a 0 * a 1, a 0 * a 2)
+
+private theorem finMulAntidiag_three {n : ℕ} :
+    ∀ a ∈ finMulAntidiag 3 n, a 0 * a 1 * a 2 = n := by
+  intro a ha
+  rw [← (mem_finMulAntidiag.mp ha).1, Fin.prod_univ_three a]
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/Antidiag/Nat.lean:250]:
```suggestion
theorem finMulAntidiag_three {n : ℕ} :
    ∀ a ∈ finMulAntidiag 3 n, a 0 * a 1 * a 2 = n := by
  intro a ha
  rw [← (mem_finMulAntidiag.mp ha).1, Fin.prod_univ_three a]

namespace card_pair_lcm_eq

/-!
The following private declarations are ingredients for the proof of `card_pair_lcm_eq`.
-/

@[reducible]
private def f {n : ℕ} : ∀ a ∈ finMulAntidiag 3 n, ℕ × ℕ := fun a _ => (a 0 * a 1, a 0 * a 2)
```

File: Mathlib/Algebra/Order/Antidiag/Nat.lean [hunk 6]
```diff
@@ -239,4 +241,69 @@ theorem card_finMulAntidiag_of_squarefree {d n : ℕ} (hn : Squarefree n) :
...
+    · rw [Fin.prod_univ_three a]
+      simp only [a, Matrix.cons_val_zero, Matrix.cons_val_one, Matrix.head_cons,
+      Matrix.cons_val_two, Matrix.tail_cons]
+      rw [Nat.mul_div_cancel_left' (Nat.gcd_dvd_left _ _), ← hb.2, lcm,
+        Nat.mul_div_assoc b.fst (Nat.gcd_dvd_right b.fst b.snd)]
+  use a; use ha
+  apply Prod.ext <;> simp only [Matrix.cons_val_zero, Matrix.cons_val_one, Matrix.head_cons]
+    <;> apply Nat.mul_div_cancel'
+  · apply Nat.gcd_dvd_left
+  · apply Nat.gcd_dvd_right
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/Antidiag/Nat.lean:302]:
```suggestion
  · apply Nat.gcd_dvd_right

end card_pair_lcm_eq
```

**Review by jcommelin — COMMENTED** [review]
bors d+
